US07939661B2
Step 2: Piperidin-4-yl-quinolin-3-yl-amine dihydrochloride
A solution of 4-(quinolin-3-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (1.77 g, 5.41 mmol) in dioxane (20 mL) and 4 M HCl in dioxane (20 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 228.6 [M+H]+.

reactant | 4-(quinolin-3-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 5.41 mmol, 1.77 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC=1C=NC2=CC=CC=C2C1 | C19H25N3O2
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | Piperidin-4-yl-quinolin-3-yl-amine dihydrochloride | Cl.Cl.N1CCC(CC1)NC=1C=NC2=CC=CC=C2C1 | InChI=1S/C14H17N3.2ClH/c1-2-4-14-11(3-1)9-13(10-16-14)17-12-5-7-15-8-6-12;;/h1-4,9-10,12,15,17H,5-8H2;2*1H
